US04129594
Following the general procedure in Example 1 for the preparation of the diacid chloride, 10.13 parts of terephthalic acid were added to a mixture of 14.7 parts triethylamine and 14.4 parts phosgene in 200 parts dry dichloromethane at 25° to 30° C. The ratio of equivalents of triethylamine base/COOH acid group was 1.19. After carrying out the reaction and esterifying the resulting diacid chloride by the procedure described in Example 1, no dimethyl terephthalate was isolated. Instead, 100% recovery of unreacted terephthalic acid was obtained.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
